US08314087B2
N-(2-Aminoethyl)-2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide
A solution of 2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzoic acid (494 mg, 1093 μmol), DIEA (191 μL, 1093 μmol), and HATU (416 mg, 1093 μmol) in DMF (5 mL) was stirred at 23° C. for 15 minutes. This dark solution was then added to a second solution of ethylenediamine (730 μL, 10933 μmol) in DMF (2 mL). The reaction was then stirred overnight at 23° C. followed by a partition between 9:1 CHCl3/IPA (75 mL) and NaOH (1 M, 25 mL). The organic was separated, dried over MgSO4, then concentrated onto dry silica (15 g). The product was purified on silica (40 g) eluting with 10% 2 M NH3 in MeOH/DCM, and isolated as a fluffy lyophilized solid from 1:1 ACN/water. MS (ESI pos. ion) m/z: 494 (MH+); calc'd for C25H24ClN5O4: 493. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.71 (t, J=6.27 Hz, 2H) 3.26 (q, J=6.02 Hz, 2 H) 3.87 (s, 3 H) 4.68 (d, J=4.52 Hz, 4 H) 6.95 (d, J=5.52 Hz, 1 H) 7.05 (dd, J=9.29, 2.26 Hz, 1 H) 7.13 (d, J=10.04 Hz, 1 H) 7.28 (d, J=2.01 Hz, 1 H) 7.51-7.58 (m, 1 H) 7.82-7.97 (m, 3 H) 8.13 (d, J=10.04 Hz, 1 H) 8.50 (t, J=5.27 Hz, 1 H) 8.62 (d, J=5.52 Hz, 1 H).

reactant | 2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzoic acid | 1093 μmol, 494 mg | ClC1=C(C(=O)O)C=CC(=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC | C23H18ClN3O5
reactant | DIEA | 1093 μmol, 191 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1093 μmol, 416 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | ethylenediamine | 10933 μmol, 730 μL | C(CN)N | C2H8N2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-(2-Aminoethyl)-2-chloro-4-(1-(2-(7-methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridazin-3-yl)benzamide | NCCNC(C1=C(C=C(C=C1)C1=NN(C(C=C1)=O)CCOC1=CC=NC2=CC(=CC=C12)OC)Cl)=O | C25H24ClN5O4
